US07259183B2
Preparation of 1H-Indole-7-carboxylic acid butyl-(4-tert-butyl-benzyl)-amide 77
To a solution of 110 mg of 1H-indole-7-carboxylic acid (0.68 mmol) and 220 mg of TBTU (0.68 mmol) in 10 ml DMF, were added 0.59 ml (3.42 mmol) of N,N-diisopropylethyl amine. After stirring for 5 min at rt, 150 mg (0.68 mmol) of butyl-(4-tert-butyl-benzyl)-amine were added. After stirring for 2 h at rt, the reaction mixture was diluted with 100 ml water and extracted twice with EtOAc. The combined organic phases were washed with water and brine, dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (8 g silica gel; heptane/EtOAc 2:1) to give 209 mg (82%) of a light yellow viscous oil. MS (EI) 362.2 (M)+.

reactant | 1H-indole-7-carboxylic acid | 0.68 mmol, 110 mg | N1C=CC2=CC=CC(=C12)C(=O)O | C9H7NO2
reactant | TBTU | 0.68 mmol, 220 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 3.42 mmol, 0.59 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | butyl-(4-tert-butyl-benzyl)-amine | 0.68 mmol, 150 mg | C(CCC)NCC1=CC=C(C=C1)C(C)(C)C | C15H25N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 1H-Indole-7-carboxylic acid butyl-(4-tert-butyl-benzyl)-amide | 209 mg, 82% | C(CCC)N(C(=O)C=1C=CC=C2C=CNC12)CC1=CC=C(C=C1)C(C)(C)C | C24H30N2O
